US07498433B2
Preparation of 1-[2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepin-3-yl]-1-propanol (VI)
A suspension of 2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepine (17.024 g, 50 mmol) in tetrahydrofuran (200 ml) under constant flow of argon was cooled to −30° C. A solution of lithium diisopropylamide (LDA) (2 M, 37.5 ml, 75 mmol) was added dropwise. Thus obtained dark brown suspension was allowed to warm to −5° C., and then again cooled to −30° C. Propionaldehyde (5.50 ml, 75 mmol) was added during 5 min. The resulting pale brown suspension was allowed to warm to 10° C., while strongly agitated water (250 ml) was added. The solution was transferred to a separating funnel, chloroform (150 ml) was added and the phases were separated. The water phase was extracted with chloroform (2×50 ml). The combined organic phases were dried over anhydrous Na2SO4 and the solvent was evaporated at reduced pressure. The crude product was suspended in hexane (750 ml), filtered off and washed with hexane (75 ml) to give 18.34 g (92%) of the title compound as an off-white powder. For analytical purposes the product was recrystallised from ethyl acetate.

reactant | 2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepine | 50 mmol, 17.024 g | CN1CCN(CC1)C=1CC(=NC2=C(N1)C=CC=C2)N2CCN(CC2)C | C19H28N6
reactant | lithium diisopropylamide | 75 mmol, 2 M, 37.5 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | Propionaldehyde | 75 mmol, 5.50 ml | C(CC)=O | C3H6O
reactant | water | 250 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[2,4-bis(4-methyl-1-piperazinyl)-3H-[1,5]benzodiazepin-3-yl]-1-propanol | 18.34 g, 92% | CN1CCN(CC1)C=1C(C(=NC2=C(N1)C=CC=C2)N2CCN(CC2)C)C(CC)O | C22H34N6O
